US08648099B2
Preparation of 5-(4-chlorophenyl)-N′-(6-chloropyridazin-3-yl)-N′-methyl-6-(2,2,2-trifluoroethoxy)-3-pyridinecarboxylic acid hydrazide
The title compound was synthesized in analogy to Example 1 using 5-(4-chlorophenyl)-6-(2,2,2-trifluoroethoxy)-3-pyridinecarboxylic acid (CAN 1018782-82-5) and 3-chloro-6-(1-methylhydrazinyl)-pyridazine (CAN 76953-33-8) as starting materials; LC-MS (UV peak area/ESI) 96.8%, 472.0538 (M+H)+.

reactant | 5-(4-chlorophenyl)-6-(2,2,2-trifluoroethoxy)-3-pyridinecarboxylic acid | ClC1=CC=C(C=C1)C=1C=C(C=NC1OCC(F)(F)F)C(=O)O | C14H9ClF3NO3
reactant | 3-chloro-6-(1-methylhydrazinyl)-pyridazine | ClC=1N=NC(=CC1)N(N)C | C5H7ClN4
product | 5-(4-chlorophenyl)-N′-(6-chloropyridazin-3-yl)-N′-methyl-6-(2,2,2-trifluoroethoxy)-3-pyridinecarboxylic acid hydrazide | ClC1=CC=C(C=C1)C=1C=C(C=NC1OCC(F)(F)F)C(=O)NN(C)C=1N=NC(=CC1)Cl | C19H14Cl2F3N5O2
